US07943651B2
N-[(1R)-2-Amino-1-(hydroxymethyl)-2-oxoethyl]-3-(4-{[4-[5-fluoro-2-(methloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzamide
Prepared similarly to Example 14 from N-{[3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)phenyl]carbonyl}-D-serine and ammonia.

reactant | N-{[3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)phenyl]carbonyl}-D-serine | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C=CC1)C(=O)N[C@H](CO)C(=O)O)(C(F)(F)F)O)(C)C)OC | C32H34F4N4O6
reactant | ammonia | N | H3N
product | N-[(1R)-2-Amino-1-(hydroxymethyl)-2-oxoethyl]-3-(4-{[4-[5-fluoro-2-(methloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzamide | NC([C@@H](CO)NC(C1=CC(=CC=C1)N1N=CC2=C(C=C(C=C12)C)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O)=O)=O | C32H35F4N5O5
